US04376124
2-(5H-Dibenzo[a,d]cyclohepten-5-ylidene)propionic acid
5H-Dibenzo[a,d]cyclohepten-5-one is reacted with triethyl 2-phosphonopropionate in a manner similar to Example 1, to yield the title compound, m.p. 235°-236° C. (uncorr.)

reactant | 5H-Dibenzo[a,d]cyclohepten-5-one | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=O | C15H10O
reactant | triethyl 2-phosphonopropionate | CCOC(=O)C(C)P(=O)(OCC)OCC | C9H19O5P
product | 2-(5H-Dibenzo[a,d]cyclohepten-5-ylidene)propionic acid | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C(C(=O)O)C | C18H14O2
